US04029801
4-Amino-1-[2-(2-naphthyl)ethyl]-piperidine
4-Benzamido-1-[2-(2-naphthyl)ethyl]piperidine (1.0 g.) was suspended in 6N HCl (40 ml.) and boiled for 96 hr. The resulting solution was worked up in the manner of Example 72 to give the title compound (0.558 g.) as the dihydrochloride, pale yellow needles, m.p. >300° (decomp.)

reactant | 4-Benzamido-1-[2-(2-naphthyl)ethyl]piperidine | 1.0 g | C(C1=CC=CC=C1)(=O)NC1CCN(CC1)CCC1=CC2=CC=CC=C2C=C1 | C24H26N2O
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
solvent | HCl | 6N, 40 ml | Cl | ClH
product | 4-Amino-1-[2-(2-naphthyl)ethyl]-piperidine | 0.558 g | NC1CCN(CC1)CCC1=CC2=CC=CC=C2C=C1 | C17H22N2
